US06353006B1
(1S)-1-(Hydroxymethyl)-3-methylbutylamine was made from (L)-leucine methyl ester as described in Method B1b. The 2-hydroxyethylamine was converted to (1S)-1-(chloromethyl)-3-methylbutanammonium chloride as described in Method B7a. 4-Chloro-2-methylphenyl isothiocyanate was reacted with (1S)-1-(chloromethyl)-3-methylbutanammonium chloride according to Method C1a to give (4S)-2-(4-Chloro-2-methylphenylimino)-4-isobutyl-1,3-thiazolidine. The thiazolidine was reacted with isobutyl bromide according to Method D2a to give (4S)-2-(4-chloro-2-methylphenylimino)-3,4-diisobutyl-1,3-thiazolidine.

reactant | (1S)-1-(Hydroxymethyl)-3-methylbutylamine | OC[C@H](CC(C)C)N | C6H15NO
reactant | (L)-leucine methyl ester | COC([C@@H](N)CC(C)C)=O | C7H15NO2
reactant | 2-hydroxyethylamine | OCCN | C2H7NO
reactant | 4-Chloro-2-methylphenyl isothiocyanate | ClC1=CC(=C(C=C1)N=C=S)C | C8H6ClNS
product | (4S)-2-(4-Chloro-2-methylphenylimino)-4-isobutyl-1,3-thiazolidine | ClC1=CC(=C(C=C1)N=C1SC[C@@H](N1)CC(C)C)C | C14H19ClN2S
